US06194409B1
85f. Trifluoro-methanesulfonic acid 1-amino-isoquinolin-7-yl ester
A mixture of 20.0 g of 1-amino-isoquinolin-7-ol and 67.2 g of N-phenyl-bis(trifluoromethane-sulfonimid) in 300 mL of dichloromethane and 300 mL of dioxane was cooled in an ice bath and 26.9 mL of N,N-diisopropylethylamine added dropwise. The resulting mixture was heated for 24 h at 70° C., after which the volatiles were removed in vacuo. The remaining residue was dissolved in ethyl acetate, washed with successive portions of 2N NaOH, water and brine and dried (Na2SO4). Filtration and concentration afforded a colourless oil, which was purified by silica chromatography (ethyl acetate/isohexane=3/7, 4/6, 5/5, 6/4, 7/3) yielding 35.4 g (92%) of the title compound as yellow crystals. M.p. 115-118° C.; EI-MS: 292 (M+).

reactant | 1-amino-isoquinolin-7-ol | 20.0 g | NC1=NC=CC2=CC=C(C=C12)O | C9H8N2O
reactant | N-phenyl-bis(trifluoromethane-sulfonimid) | 67.2 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | N,N-diisopropylethylamine | 26.9 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | Trifluoro-methanesulfonic acid 1-amino-isoquinolin-7-yl ester | 35.4 g, 92% | NC1=NC=CC2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F | C10H7F3N2O3S
